US05973094
102.1 Grams(1 mole) of methyl pyruvate is dissolved in 204.2 g(2 moles) of acetic anhydride and 5.0 g(20 millimoles) of pyridinium p-toluenesulfonate is added thereto, followed by conducting a reaction at 100 to 110° C. for 7 hours with stirring and refluxing with stirring for 11 hours. After cooling, the reaction solution is poured into 5000 ml of water and the precipitated oily substance is extracted with ethyl ether. The extract layer is washed with water, dried over anhydrous magnesium sulfate, concentrated and distilled under reduced pressure to give 50.0 g of methyl 2-acetyloxyacrylate as colorless oil having bp. 65 to 68° C./11 mmHg.

reactant | methyl pyruvate | 1 mole | C(C(=O)C)(=O)OC | C4H6O3
reactant | acetic anhydride | 2 moles, 204.2 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridinium p-toluenesulfonate | 20 millimoles, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | water | 5000 ml | O | H2O
product | methyl 2-acetyloxyacrylate | 50.0 g | C(C)(=O)OC(C(=O)OC)=C | C6H8O4
